US04703053
A mixture of 25.0 g (0.10 mole) of 3-hydroxynaphtho [2,3-b]furan-2-carboxylic acid, methyl ester, 15.3 g (0.11 mole) of anhydrous potassium carbonate, and 10.6 ml (14.1 g, 11 mole of dimethyl sulfate in 500 ml of acetone is stirred at refux for 24 hours. The mixture is cooled, filtered, and the filter cake is washed several times with fresh acetone. The combined filtrates are evaporated (vacuum), and the residue is recrystallized from methanol to yield 20.3 g (77% yield) of the analytically pure 3-methoxynaphtho[2,3-b]furan-2-carboxylic acid, methyl ester, mp 121°-124 ° C.

reactant | 3-hydroxynaphtho [2,3-b]furan-2-carboxylic acid, methyl ester | 0.10 mole, 25.0 g | OC=1C2=C(OC1C(=O)OC)C=C1C=CC=CC1=C2 | C14H10O4
reactant | potassium carbonate | 0.11 mole, 15.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 11 mole, 14.1 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-methoxynaphtho[2,3-b]furan-2-carboxylic acid, methyl ester | 77% yield | COC=1C2=C(OC1C(=O)OC)C=C1C=CC=CC1=C2 | C15H12O4
